US07384934B2
2-(5-Fluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile
Add 2-amino-5-methyl-thiophene-3-carbonitrile (10.0 g, 72.4 mmol) and 2,4-difluoro-1-nitro-benzene (8.00 mL, 73.0 mmol) to DMSO (130 mL) and stir under nitrogen at ambient temperature. Add lithium hydroxide monohydrate (6.10 g, 145 mmol) in one portion and stir at ambient temperature. After 18 hours, add deionized water (390 mL) dropwise at 10-20° C. Adjust the pH to 7-8 with concentrated HCl (˜6 mL) and stir for 4 hours. Filter the crude product and rinse with 3:1/water: DMSO, then water. Dry at 50° C. to constant weight. Purify by flash chromatography, eluting with methylene chloride to give the title compound 10.3 g (62%): 1H NMR (400 MHz, DMSO-d6) δ 9.83 (bs, 1H), 8.28 (m, 1H), 7.12 (s, 1H), 6.91 (m, 1H), 6.73 (m, 1H), 2.53 (s, 3H). HRMS (ES) exact mass M+H calcd for C12H8FN3O2S 300.0219; found 300.0219.

reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 72.4 mmol, 10.0 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | 2,4-difluoro-1-nitro-benzene | 73.0 mmol, 8.00 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | lithium hydroxide monohydrate | 145 mmol, 6.10 g | O.[OH-].[Li+]
reactant | HCl | ˜6 mL | Cl | ClH
solvent | water | 390 mL | O | H2O
solvent | DMSO | 130 mL | CS(=O)C | C2H6OS
product | 2-(5-Fluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 10.3 g, 62% | FC=1C=CC(=C(C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8FN3O2S
